US06110933
A solution of (3S)-(2,2,2-trichloroethyl) 3-[(2S)-5-benzyloxycarbonyl-2-isocyanatopentanoyl]oxyhexadecanoate (0.33 g) and 2-(methylamino)pyridine (113 mg) in dichloromethane (5 ml) was stirred at room temperature overnight. The mixture was poured into ethyl acetate (20 ml), and washed with aqueous 1 N-hydrochloric acid (20 ml×2), saturated sodium bicarbonate (20 ml), and brine (20 ml). Then, the solution was dried over magnesium sulfate, and evaporated to dryness. The residue was chromatographed on a silica gel to give (3S)-(2,2,2-trichloroethyl) 3-[(2S)-5-benzyloxycarbonyl-2-{3-methyl-3-(2-pyridyl)ureido}pentanoyl]oxyhexadecanoate (0.25 g).

reactant | (3S)-(2,2,2-trichloroethyl) 3-[(2S)-5-benzyloxycarbonyl-2-isocyanatopentanoyl]oxyhexadecanoate | 0.33 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)OCC(Cl)(Cl)Cl)CCCCCCCCCCCCC)N=C=O | C32H46Cl3NO7
reactant | 2-(methylamino)pyridine | 113 mg | CNC1=NC=CC=C1 | C6H8N2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3S)-(2,2,2-trichloroethyl) 3-[(2S)-5-benzyloxycarbonyl-2-{3-methyl-3-(2-pyridyl)ureido}pentanoyl]oxyhexadecanoate | 0.25 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)OCC(Cl)(Cl)Cl)CCCCCCCCCCCCC)NC(=O)N(C1=NC=CC=C1)C | C38H54Cl3N3O7
